US06133266
Ethyl 2-[(2S)-2-[[(2RS)-2-(2,2-dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]acetate (11.5 g) was suspended in 75 ml of 1,2-dimethoxyethane, 252 ml of 1 N hydrochloric acid was added dropwise to the suspension while keeping the temperature at 20° C. or lower, and the resulting mixture was subjected to 30 minutes of reaction at room temperature. Then, 23.3 g of sodium bicarbonate was added with stirring at 0° C., and the mixture was extracted with ethyl acetate. The extract was washed with an aqueous saturated sodium bicarbonate solution and brine and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was evaporated under reduced pressure and the resulting residue was purified by silica gel medium pressure liquid column chromatography (eluent: ethyl acetate/ethanol=5/1) to give 7.2 g of amorphous ethyl 2-[(2S)-2-[[(2RS)-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethyl]-amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]acetate.

reactant | Ethyl 2-[(2S)-2-[[(2RS)-2-(2,2-dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)-2-hydroxyethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]acetate | 11.5 g | CC1(OCC2=C(O1)C=CC(=C2)C(CN[C@@H]2CC1=CC(=CC=C1CC2)OCC(=O)OCC)O)C | C26H33NO6
reactant | hydrochloric acid | 1 N, 252 ml | Cl | ClH
reactant | sodium bicarbonate | 23.3 g | C([O-])(O)=O.[Na+]
solvent | 1,2-dimethoxyethane | 75 ml | COCCOC | C4H10O2
product | ethyl 2-[(2S)-2-[[(2RS)-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethyl]-amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]acetate | 7.2 g | OC(CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)OCC)C1=CC(=C(C=C1)O)CO | C23H29NO6
